US04463177
Hexahydro-3-ethyl-3-(3-hydroxyphenyl)-1-methyl-2H-azepin-2-one
A solution of 3-(2-bromo-3-oxocyclohex-1-enyl)-3-ethylhexahydro-1-methylazepin-2-one (6.57 g) in dichloromethane (70 ml) was treated with 48% HBr in acetic acid (1 ml). After 3 hours NMR indicated completion. The solvent was removed under reduced pressure and the residue triturated with aqueous ammonia to yield the title compound as a white crystalline solid, m.p. 178°-80° C. (EtOAc).

reactant | 3-(2-bromo-3-oxocyclohex-1-enyl)-3-ethylhexahydro-1-methylazepin-2-one | 6.57 g | BrC1=C(CCCC1=O)C1(C(N(CCCC1)C)=O)CC | C15H22BrNO2
reactant | HBr | Br | BrH
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | Hexahydro-3-ethyl-3-(3-hydroxyphenyl)-1-methyl-2H-azepin-2-one | C(C)C1(C(N(CCCC1)C)=O)C1=CC(=CC=C1)O | C15H21NO2
